US04731373
A solution of 0.15 g of (R)-1-O-[(2-bromoethoxy)carbonyl]-2-O-(methylcarbamoyl)-3-O-octadecylglycerine in 5 ml of pyridine is heated at 60° C. for 20 hours. The solution is evaporated and the residue is treated with toluene by azeotropic distillation. The residue is recrystallized from acetone. There is obtained 1-[2-[[[(R)-2-[(methylcarbamoyl)oxy]-3-(octadecyloxy)propoxy]carbonyl]oxy]ethyl]pyridinium bromide of melting point 94° C. (dec.).

reactant | (R)-1-O-[(2-bromoethoxy)carbonyl]-2-O-(methylcarbamoyl)-3-O-octadecylglycerine | 0.15 g | BrCCOC(=O)OC[C@H](OC(NC)=O)COCCCCCCCCCCCCCCCCCC | C26H50BrNO6
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-[[[(R)-2-[(methylcarbamoyl)oxy]-3-(octadecyloxy)propoxy]carbonyl]oxy]ethyl]pyridinium bromide | [Br-].CNC(=O)O[C@@H](COC(=O)OCC[N+]1=CC=CC=C1)COCCCCCCCCCCCCCCCCCC | InChI=1S/C31H54N2O6.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21-25-36-27-29(39-30(34)32-2)28-38-31(35)37-26-24-33-22-19-18-20-23-33;/h18-20,22-23,29H,3-17,21,24-28H2,1-2H3;1H/t29-;/m1./s1
